US05250554
Methyl 3-[N-(2'-cyanobiphenyl-4-yl)methyl-N-valerylamino]-4-nitrobenzoate
A mixture of methyl 4-nitro-3-valerylaminobenzoate (1.0 g), 4-(2-cyanophenyl)benzyl bromide (0.97 g) and potassium carbonate (0.55 g) in DMF (10 ml) was stirred for two days at room temperature. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried. The solvent was distilled off, and the residue was purified by column chromatography on silica gel to afford a pale yellow oil (1.24 g, 73%).

reactant | methyl 4-nitro-3-valerylaminobenzoate | 1.0 g | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)NC(CCCC)=O | C13H16N2O5
reactant | 4-(2-cyanophenyl)benzyl bromide | 0.97 g | C(#N)C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C14H10BrN
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl 3-[N-(2'-cyanobiphenyl-4-yl)methyl-N-valerylamino]-4-nitrobenzoate | 1.24 g, 73% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)C=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C27H25N3O5
